US07259266B2
Step 1: Preparation of 7-iodo-2-(trifluoromethyl)-2H-chromene-3-carboxylic acid
To a suspension of ethyl 7-iodo-2-(trifluoromethyl)-2H-chromene-3-carboxylate (1.50 g, 3.9 mmol) in 5 mL EtOH was added NaOH (0.46 g, 11.6 mmol) in 2.5 mL of H2O. After heating for 1.5 h, reaction solvent was removed under vacuum. The resulting sodium salt was used immediately.

reactant | ethyl 7-iodo-2-(trifluoromethyl)-2H-chromene-3-carboxylate | 3.9 mmol, 1.50 g | IC1=CC=C2C=C(C(OC2=C1)C(F)(F)F)C(=O)OCC | C13H10F3IO3
reactant | NaOH | 11.6 mmol, 0.46 g | [OH-].[Na+]
solvent | EtOH | 5 mL | CCO | C2H6O
solvent | H2O | 2.5 mL | O | H2O
product | 7-iodo-2-(trifluoromethyl)-2H-chromene-3-carboxylic acid | IC1=CC=C2C=C(C(OC2=C1)C(F)(F)F)C(=O)O | C11H6F3IO3
